US09301951B2
Intermediate 20b: N-(3-(trifluoromethyl)benzyl)-2-(2-amino-5-(pyrrolidin-1-yl)phenyl)-isonicotinamide
Into a 50-mL round bottom flask, was placed a solution of N-(3-(trifluoromethyl)benzyl)-2-(2-nitro-5-(pyrrolidin-1-yl)phenyl)isonicotinamide (400 mg, 0.85 mmol, 1.00 equiv) in methanol (20 mL). The solution was treated with Pd/C (400 mg) and stirred under an atmosphere of hydrogen for 3.5 h at room temperature. The solids were filtered out. The resulting mixture was concentrated under vacuum. The product was obtained as 300 mg (80%) of a yellow to green solid.

reactant | N-(3-(trifluoromethyl)benzyl)-2-(2-nitro-5-(pyrrolidin-1-yl)phenyl)isonicotinamide | 0.85 mmol, 400 mg, 1.00 equiv | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC(=C2)N2CCCC2)[N+](=O)[O-])=O)C=CC1)(F)F | C24H21F3N4O3
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd/C | 400 mg | [Pd] | Pd
product | N-(3-(trifluoromethyl)benzyl)-2-(2-amino-5-(pyrrolidin-1-yl)phenyl)-isonicotinamide | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC(=C2)N2CCCC2)N)=O)C=CC1)(F)F | C24H23F3N4O
